Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[O:13][H:14],2.47123663474
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],1.75206643222
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.77256543923
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:11].[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12][H:13],1.56540151431
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.9906800142900003
[C:3](=[C:4]([H:5])[H:6])([H:7])[H:10].[O:1][C:2]#[C:8][C:11]([H:9])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.16590182077
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4],5.39241164326
[H:1][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-0.147812198689
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3],4.05740708409
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.60144088293
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]#[C:7][H:8],-0.36912596842
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:8].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13],1.44105713211
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.96323174476
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.17556558061
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],5.09166580406
[C:5][H:6].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])=[C:5][H:6],-7.58926627746
[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.357447855591
[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.54528727531
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2],5.38575326326
[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],5.86835098354
[H:11].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87775608406
[H:1][O:2][C@:3]([H:4])([C:5][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.71377708008
[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]=[O:6].[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[H:10],-1.72706859074
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],2.35088919518
[H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.14264939588
[H:1][C:2]=[C:3]([C:4]#[C:5][O:6][H:7])[O:8][H:9]>>[C:3]([C:4]#[C:5][O:6][H:7])[O:8][H:9].[H:1][C:2],6.7367146057700005
[C:3]([C:4]([H:5])([H:6])[H:7])#[C:8][H:9].[H:1][C:2]([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.43091500125
[C:1]=[C:2]([H:3])[H:4].[C:5]=[C:6]([H:7])[H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],-0.62524238304
[C:1][C@:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13]>>[C:1]=[C:2]([H:3])[C@@:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[O:12][H:13],0.2242494616
